US09023858B2
D) 2-[(2-aminoethyl)sulfanyl]-3-[4-(2,2,2-trifluoroethoxy)phenyl]thieno[3,4-d]pyrimidin-4(3H)-one hydrochloride
To a mixed solution of 4N hydrogen chloride ethyl acetate solution (20 ml) and methanol (10 ml) was added tert-butyl [2-({4-oxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,4-dihydrothieno[3,4-d]pyrimidin-2-yl}sulfanyl)ethyl]carbamate (1.7 g), and the mixture was stirred at room temperature for 14 hr. The reaction mixture was concentrated under reduced pressure, and the residue was washed with a mixture of ethyl acetate/ether (1/1) to give the title compound (1.48 g) as a white solid.

reactant | hydrogen chloride ethyl acetate | 4N, 20 ml | C(C)OC(C)=O.Cl
reactant | tert-butyl [2-({4-oxo-3-[4-(2,2,2-trifluoroethoxy)phenyl]-3,4-dihydrothieno[3,4-d]pyrimidin-2-yl}sulfanyl)ethyl]carbamate | 1.7 g | O=C1C=2C(N=C(N1C1=CC=C(C=C1)OCC(F)(F)F)SCCNC(OC(C)(C)C)=O)=CSC2 | C21H22F3N3O4S2
solvent | methanol | 10 ml | CO | CH4O
product | 2-[(2-aminoethyl)sulfanyl]-3-[4-(2,2,2-trifluoroethoxy)phenyl]thieno[3,4-d]pyrimidin-4(3H)-one hydrochloride | 1.48 g | Cl.NCCSC=1N(C(C=2C(N1)=CSC2)=O)C2=CC=C(C=C2)OCC(F)(F)F | InChI=1S/C16H14F3N3O2S2.ClH/c17-16(18,19)9-24-11-3-1-10(2-4-11)22-14(23)12-7-25-8-13(12)21-15(22)26-6-5-20;/h1-4,7-8H,5-6,9,20H2;1H
